US04367238
A solution of 2-methoxy-3-(2-chlorophenoxy)benzaldehyde (5.0 g) in methanol (50 ml) and sodium borohydride (720 mg) were treated in a similar manner to that of Example 3-(5). The resultant residue was subjected to column chromatography on silica gel (100 g) and eluted with a mixture of benzene and ethyl acetate (10:1) to give crystalline 2-methoxy-3-(2-chlorophenoxy)benzyl alcohol (2.8 g).

reactant | 2-methoxy-3-(2-chlorophenoxy)benzaldehyde | 5.0 g | COC1=C(C=O)C=CC=C1OC1=C(C=CC=C1)Cl | C14H11ClO3
reactant | sodium borohydride | 720 mg | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-methoxy-3-(2-chlorophenoxy)benzyl alcohol | 2.8 g | COC1=C(CO)C=CC=C1OC1=C(C=CC=C1)Cl | C14H13ClO3
